US07947685B2
Step 4: 3-(Pyridin-3-ylamino)-pyrazine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide dihydrochloride
[3-(4-Methyl-thiazol-2-ylcarbamoyl)-pyrazin-2-yl]-pyridin-3-yl-carbamic acid tert-butyl ester (180 mg, 0.44 mmol) was dissolved in 5 ml ethyl acetate and 8M HCl in ethanol (2.2 ml, 17.6 mmol) was added. The reaction mixture was stirred for 3 hrs at room temperature and diluted then with 20 mL diisopropylether. The solid material was filtered off and dried at 50° C. and 15 mbar for 1 hr. The desired compound was obtained as a yellow solid (169 mg, 99%), MS: m/e=313.1 (M+H+).

reactant | [3-(4-Methyl-thiazol-2-ylcarbamoyl)-pyrazin-2-yl]-pyridin-3-yl-carbamic acid tert-butyl ester | 0.44 mmol, 180 mg | C(C)(C)(C)OC(N(C=1C=NC=CC1)C1=NC=CN=C1C(NC=1SC=C(N1)C)=O)=O | C19H20N6O3S
reactant | HCl | 8M | Cl | ClH
reactant | ethanol | 17.6 mmol, 2.2 ml | C(C)O | C2H6O
reactant | diisopropylether | 20 mL | C(C)(C)OC(C)C | C6H14O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 3-(Pyridin-3-ylamino)-pyrazine-2-carboxylic acid (4-methyl-thiazol-2-yl)-amide dihydrochloride | Cl.Cl.CC=1N=C(SC1)NC(=O)C1=NC=CN=C1NC=1C=NC=CC1 | InChI=1S/C14H12N6OS.2ClH/c1-9-8-22-14(18-9)20-13(21)11-12(17-6-5-16-11)19-10-3-2-4-15-7-10;;/h2-8H,1H3,(H,17,19)(H,18,20,21);2*1H
